US08669398B2
Preparation of 1,3-dicyclohexyl-2-diethylamino-isourea (compound 13)
To a solution of dicyclohexylcarbodiimide (10.3 g, 50 mmol) and N,N-diethylhydroxylamine (6.7 g, 75 mmol) in THF (30 ml) is added finely powdered NaOH (0.2 g) and the mixture is stirred at room temperature for 50 hours. The reaction mixture is then filtered and the filtrate is evaporated on the rotary evaporator below 45° C. to afford 13.24 g of the title compound as a light yellow oil.

reactant | dicyclohexylcarbodiimide | 50 mmol, 10.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N,N-diethylhydroxylamine | 75 mmol, 6.7 g | C(C)N(O)CC | C4H11NO
reactant | NaOH | 0.2 g | [OH-].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1,3-dicyclohexyl-2-diethylamino-isourea | 13.24 g | C1(CCCCC1)NC(ON(CC)CC)=NC1CCCCC1 | C17H33N3O
